US07569578B2
Methyl 3-(2-((2-(trimethylsilyl)ethoxy)methyl)-7-methyl-2H-indazol-5-yl)-2-hydroxypropanoate
To a solution of tert-butyl (Z)-1-(methoxycarbonyl)-2-(2-((2-(trimethylsilyl)ethoxy)methyl)-7-methyl-2H-indazol-5-yl)vinylcarbamate (200 mg, 0.43 mmol) in dichloromethane (2 mL) at 0° C. was added trifluoroacetic acid (1 mL). The ice bath was removed. After 30 min, the reaction was poured into a separatory funnel containing ethyl acetate and water, neutralized with solid sodium bicarbonate, and the layers were separated. The organic phase was washed with saturated sodium bicarbonate, then brine, dried over magnesium sulfate, and concentrated. The yellow residue was treated with sodium cyanoborohydride (200 mg, 7.4 equiv) and tetrahydrofuran (2 mL). The reaction was stirred at room temperature overnight, diluted with ethyl acetate, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography on silica gel (25% ethyl acetate/hexanes) gave 20.4 mg (13%) as a light yellow oil. Mass spec.: 365.40 (MH)+.

reactant | tert-butyl (Z)-1-(methoxycarbonyl)-2-(2-((2-(trimethylsilyl)ethoxy)methyl)-7-methyl-2H-indazol-5-yl)vinylcarbamate | 0.43 mmol, 200 mg | COC(=O)/C(=C/C1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)/NC(OC(C)(C)C)=O | C23H35N3O5Si
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium cyanoborohydride | 200 mg, 7.4 equiv | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(2-((2-(trimethylsilyl)ethoxy)methyl)-7-methyl-2H-indazol-5-yl)-2-hydroxypropanoate | C[Si](CCOCN1N=C2C(=CC(=CC2=C1)CC(C(=O)OC)O)C)(C)C | C18H28N2O4Si
